US06713636B2
6-n-Octyloxy-14H-anthra(2,1,9 mna)thioxanthene-14-one
Into a 2 liter three-necked round bottom flask, equipped with a mechanical stirrer and a thermometer, containing 77 g 3-[(2-aminophenyl)thio]-2-n-octyloxy-7H-benzo[de]anthracene-7-one (0.16M), placed into an ice bath, was added 1100 ml of DMF. The mixture was cooled to 10° C. while stirring. 35% Hydrochloric acid (247 ml) was added portionwise, ensuring that the reaction temperature did not exceed 20° C. After the HCl addition was complete, the reaction was cooled to 0° C. and a solution of 14.0 g (0.2M) NaNO2 in 78 ml of H2O was added portionwise, making sure that the reaction temperature did not rise above 5° C. The reaction mixture was held at 5° C. for an additional 1 hour after the completion of the sodium nitrite addition. Then, during the addition of 5.2 g copper sulfate catalyst, the reaction was heated, and at 15° C., nitrogen bubbles began to evolve. The reaction mass was held at 100° C. for 1.5 hours, cooled and the red colored precipitate was filtered and washed with water, then ethanol. The yield=66.89 g (90%); Tm=205-208° C.

reactant | 3-[(2-aminophenyl)thio]-2-n-octyloxy-7H-benzo[de]anthracene-7-one | 0.16M, 77 g | NC1=C(C=CC=C1)SC=1C(=CC2=C3C1C=CC=C3C(C=3C=CC=CC23)=O)OCCCCCCCC | C31H31NO2S
reactant | DMF | 1100 ml | CN(C)C=O | C3H7NO
reactant | Hydrochloric acid | 247 ml | Cl | ClH
reactant | NaNO2 | 0.2M, 14.0 g | N(=O)[O-].[Na+]
solvent | H2O | 78 ml | O | H2O
catalyst | copper sulfate | 5.2 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 6-n-Octyloxy-14H-anthra(2,1,9 mna)thioxanthene-14-one | C(CCCCCCC)OC=1C=C2C=3C4=C(C5=CC=CC=C5SC14)C=CC3C(C3=CC=CC=C32)=O | C31H28O2S
